US04147872
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-1,2,5,6-tetrahydropyridine
A mixture of 23.6 g. (74.2 mmoles) of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-3-piperidinol and 400 ml. of 2N hydrochloric acid is heated at reflux for 2 hours. The reaction is cooled, evaporated and dissolved in excess saturated sodium bicarbonate and 400 ml. of dichloromethane. The dichloromethane extract is combined with a second 400 ml. dichloromethane extract of the aqueous phase, dried over magnesium sulfate and evaporated to an oil. Crystallization from ether-pentane gave 13.0 g. (58%) of the title compound.

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-3-piperidinol | 74.2 mmoles | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1(CNCCC1)O)O | C20H33NO2
reactant | hydrochloric acid | 2N | Cl | ClH
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-1,2,5,6-tetrahydropyridine | 58% | CC(CCCCCC)(C)C1=CC(=C(C=C1)C=1CNCCC1)O | C20H31NO
